US04260761
A mixture of 71.1 g of 3-benzofuranone [D. C. Schroeder, P. O. Corcoran, C. A. Holden, and M. C. Mulligan, J. Org. Chem., 27, 586 (1962)], 210 g of carbomethoxymethylenetriphenylphosphorane and 300 ml of toluene was heated under reflux for 8 hours. The solvent was removed and the residue stirred with ether and filtered. The filtrate was concentrated and the residue heated under reflux with 300 ml of methanol and 300 ml of 15% sodium hydroxide solution for 2 hours. The cooled mixture was diluted with water and extracted several times with methylene chloride. Acidification of the water layer and extraction with methylene chloride gave 88.3 g of crude 3-benzofuranacetic acid. The product was dissolved in 500 ml of tetrahydrofuran, and 50 g of borane-methyl sulfide complex added. After stirring at room temperature overnight, the excess reagent was destroyed by slow addition of 100 ml of conc. hydrochloric acid. The mixture was made basic and extracted several times with methylene chloride and the product shortpath distilled (bath temperature) 110°, 1 micron pressure) to give 65.8 g (76%) of 3-benzofuranethanol. NMR spectrum (in CDCl3): τ2.3-3.0 (m, 5); 6.2 (t, J=6 Hz, 2) 7.1 (t, J=6 Hz, 2) and 7.3 (s, 1).

reactant | 3-benzofuranone | 71.1 g | O1CC(C2=C1C=CC=C2)=O | C8H6O2
reactant | carbomethoxymethylenetriphenylphosphorane | 210 g | C(=O)(OC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 3-benzofuranacetic acid | 88.3 g | O1C(=CC2=C1C=CC=C2)CC(=O)O | C10H8O3
